US07105310B1
Ru3+/2+ and Ru(bpy2)(bpy')0/*−]2+ couples for compounds (a), (b), (c), and (e) were recorded and corrected for the junction potential using ferrocenium/ferrocene as an internal standard. In the cell, CV of 0.05 mM ferrocene solution in 0.1 M tetrabutylammonium hexafluorophosphate gave E0(Fc+/Fc)=498 mV vs. SCE. Junction potentials in acetonitrile were found to be 191 mV.

reactant | ferrocenium ferrocene | C1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | tetrabutylammonium hexafluorophosphate | 0.1 M | F[P-](F)(F)(F)(F)F.C(CCC)[N+](CCCC)(CCCC)CCCC
product | ferrocene | 0.05 mM | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/2C5H5.Fe/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
